US04061656
A mixture of 25.4 g. (0.12 mol) of 3-chloromethyl-2,5-dichloro-4-methylthiophene, 34.6 g. (0.132 mol) of triphenylphosphine and 200 ml. of benzene was heated to the reflux overnight. The resulting beige solid was filtered to yield (2,5-dichloro-4-methyl-3-thenyl)-triphenylphosphonium chloride, m.p. 238°-240° C.

reactant | 3-chloromethyl-2,5-dichloro-4-methylthiophene | 0.12 mol | ClCC1=C(SC(=C1C)Cl)Cl | C6H5Cl3S
reactant | triphenylphosphine | 0.132 mol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (2,5-dichloro-4-methyl-3-thenyl)-triphenylphosphonium chloride | [Cl-].ClC1=C(C(=C(S1)Cl)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H20Cl2PS.ClH/c1-18-22(24(26)28-23(18)25)17-27(19-11-5-2-6-12-19,20-13-7-3-8-14-20)21-15-9-4-10-16-21;/h2-16H,17H2,1H3;1H/q+1;/p-1
